US07282512B2
To a solution of 0.135 g (0.27 mmol) of {1-[(2-pyrimidinylsulfanyl)methyl]cyclobutyl}methyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate in 2.0 mL of dichloromethane was added 0.031 g (0.375 mmol) of sodium bicarbonate followed by the addition of 0.137 g (0.32 mmol) of Dess-Martin periodinane. The reaction was stirred for 15 min and poured directly onto a silica gel column eluting with ethyl acetate:hexane (3:7) as the eluent to afford 0.094 g (70%) of {1-[(2-pyrimidinylsulfanyl)methyl]cyclobutyl}methyl (1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 8.43 (d, J=5 Hz, 2H), 7.31-7.08 (m, 6H), 6.88 (t, J=5 Hz, 1H), 5.25 (d, J=7 Hz, 1H), 4.89-5.20 (m, 2H), 4.08 (s, 2H), 3.43 (s, 2H), 2.03-1.80 (m, 6H), 1.79-1.42 (m, 5H), 1.41-1.25 (m, 4H), 0.81 (br s, 3H). LC-MS m/z 499 (M+H).

reactant | {1-[(2-pyrimidinylsulfanyl)methyl]cyclobutyl}methyl (1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | 0.27 mmol, 0.135 g | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)CSC1=NC=CC=N1)=O | C26H36N4O4S
reactant | sodium bicarbonate | 0.375 mmol, 0.031 g | C([O-])(O)=O.[Na+]
reactant | Dess-Martin periodinane | 0.32 mmol, 0.137 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | {1-[(2-pyrimidinylsulfanyl)methyl]cyclobutyl}methyl (1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | 0.094 g, 70% | O=C(C(=O)[C@H](CCCC)NC(OCC1(CCC1)CSC1=NC=CC=N1)=O)N[C@H](C)C1=CC=CC=C1 | C26H34N4O4S
